US20010014691A1
5-(Phenylmethoxy)pyridin-3-ol
The 5-(phenylmethoxy)-3-pyridylamine (1.61 g, 8.00 mmol) was stirred into concentrated sulfuric acid (1.7 mL), water (2.5 mL) and ice (4 g). This mixture was allowed to stir for 10 min until the solution became homogeneous. To this cold, stirring solution was added a solution of sodium nitrite (552 mg, 8.00 mmol) in water (2 mL). The mixture was allowed to stir for 10 min. A boiling solution of concentrated sulfuric acid (5 mL) and water (4 mL) was added. The mixture was heated until all solids dissolved. Ice was added to cool the reaction. The pH was adjusted to 8 with 10% NaOH solution and saturated NaCl solution was added. The product was extracted with ethyl acetate (4× 100 mL). The combined ethyl acetate extracts were dried (Na2SO4), filtered, concentrated by rotary evaporation and briefly vacuum to give 1.52 g (94.4%).

reactant | 5-(phenylmethoxy)-3-pyridylamine | 8.00 mmol, 1.61 g | C1(=CC=CC=C1)COC=1C=C(C=NC1)N | C12H12N2O
reactant | sulfuric acid | 1.7 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 8.00 mmol, 552 mg | N(=O)[O-].[Na+]
reactant | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
reactant | NaOH | [OH-].[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | water | 2 mL | O | H2O
solvent | water | 4 mL | O | H2O
solvent | water | 2.5 mL | O | H2O
product | 5-(Phenylmethoxy)pyridin-3-ol | C1(=CC=CC=C1)COC=1C=C(C=NC1)O | C12H11NO2
